US07452880B2
A mixture of N-[2-(2,4-difluorophenoxy)-5-methylpyridin-4-yl]acetamide (2.3 g), acetic anhydride (2.6 g), acetic acid (2.7 mL) and potassium acetate (1.7 g) in 40 mL of benzene was brought to reflux. A solution of isoamyl nitrite (1.5 mL) in 10 mL of benzene was added to the refluxing solution over a period of two hours and refluxing was continued for an additional 18 hours. The reaction mixture was cooled and stirred with 50 mL of a 5% aqueous sodium carbonate solution for 3 hours. The organic layer was separated, dried, concentrated and purified via chromatography (silica gel, 8% ethyl acetate/hexane) to give 0.27 g of 1-[6-(2,4-difluorophenoxy)pyrazolo[4,3-c]pyridine-1-yl]ethanone (11% yield). Mass Spec. M+H=290.

reactant | N-[2-(2,4-difluorophenoxy)-5-methylpyridin-4-yl]acetamide | 2.3 g | FC1=C(OC2=NC=C(C(=C2)NC(C)=O)C)C=CC(=C1)F | C14H12F2N2O2
reactant | acetic anhydride | 2.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 1.7 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 1.5 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 2.7 mL | C(C)(=O)O | C2H4O2
product | 1-[6-(2,4-difluorophenoxy)pyrazolo[4,3-c]pyridine-1-yl]ethanone | 0.27 g, 11% yield | FC1=C(OC2=CC3=C(C=N2)C=NN3C(C)=O)C=CC(=C1)F | C14H9F2N3O2
